US09328099B2
Step B. tert-Butyl 4-(cyanomethyl)-4-[4-(methoxycarbonyl)-3-(phenylamino)-1H-pyrazol-1-yl]piperidine-1-carboxylate (Step B Intermediate)
To a microwave vessel was added tert-butyl 4-[3-amino-4-(methoxycarbonyl)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidine-1-carboxylate (0.400 g, 1.10 mmol), K3PO4 (467 mg, 2.20 mmol), bromobenzene (0.13 mL, 1.2 mmol), and dioxane (5.5 mL). The mixture was degassed by bubbling argon for 5 minutes. Pd2(dba)3 (50 mg, 0.05 mmol) and X-Phos (79 mg, 0.16 mmol) were added, and the vial was sealed and heated to 95° C. for 3 hours. The reaction was then cooled to ambient temperature, diluted with EtOAc, filtered through celite, and rinsed with EtOAc. The filtrate was concentrated in vacuo, and the residue was purified by MPLC on silica gel (using a gradient elution of 0-50% EtOAc/hexanes) to afford the title compound.

reactant | tert-butyl 4-[3-amino-4-(methoxycarbonyl)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidine-1-carboxylate | 1.10 mmol, 0.400 g | NC1=NN(C=C1C(=O)OC)C1(CCN(CC1)C(=O)OC(C)(C)C)CC#N | C17H25N5O4
reactant | K3PO4 | 2.20 mmol, 467 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | bromobenzene | 1.2 mmol, 0.13 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | X-Phos | 0.16 mmol, 79 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.05 mmol, 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 5.5 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(cyanomethyl)-4-[4-(methoxycarbonyl)-3-(phenylamino)-1H-pyrazol-1-yl]piperidine-1-carboxylate | C(#N)CC1(CCN(CC1)C(=O)OC(C)(C)C)N1N=C(C(=C1)C(=O)OC)NC1=CC=CC=C1 | C23H29N5O4
